US08026257B2
tert-Butyl 4-((1-(1-ethyl-6-(trifluoromethyl)-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate.
(±)-(1-(1-Ethyl-6-(trifluoromethyl)-1H-benzo[d]imidazol-4-yl)ethyl 2,2,2-trichloroacetimidate (670 mg, 1.7 mmol) and tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (772 mg, 2.5 mmol) were combined in a dichloroethane/cyclohexane mixture (4:2, 6 mL) and cooled to 0° C. The reaction mixture was treated with tetrafluoroboric acid-diethyl ether complex (91 μL, 0.67 mmol), and subsequent processing including extractive work up and purification were carried out as described in example 8 to give 281 mg (30.7%) as white foam-like solid. 1H-NMR (500 MHz, CHLOROFORM-D) δ ppm 7.97 (s, 1 H), 7.54 (s, 1 H), 7.20-7.33 (m, 3 H), 7.00 (t, J=8.7 Hz, 2 H), 5.10 (q, J=6.6 Hz, 1 H), 4.17-4.30 (m, 2 H), 3.56-3.78 (m, 2 H), 3.24-3.40 (m, 2 H), 2.93-3.12 (m, 2 H), 2.02-2.21 (m, 2 H), 1.80-1.99 (m, 2 H), 1.56 (t, 3 H), 1.37-1.47 (m, 12 H). 550.40 (MH)+.

reactant | 1-(1-Ethyl-6-(trifluoromethyl)-1H-benzo[d]imidazol-4-yl)ethyl 2,2,2-trichloroacetimidate | 1.7 mmol, 670 mg | ClC(C(OC(C)C1=CC(=CC=2N(C=NC21)CC)C(F)(F)F)=N)(Cl)Cl | C14H13Cl3F3N3O
reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 2.5 mmol, 772 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
reactant | dichloroethane cyclohexane | 6 mL | ClC(C)Cl.C1CCCCC1
product | tert-Butyl 4-((1-(1-ethyl-6-(trifluoromethyl)-1H-benzo[d]imidazol-4-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | C(C)N1C=NC2=C1C=C(C=C2C(C)OCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=C(C=C2)F)C(F)(F)F | C29H35F4N3O3
